US07781591B2
A mixture of acetoacetonitrile (41 g, 493 mmol), t-butoxybis(dimethyl amino)methane (86 g, 493 mmol) and DMF-DMA (263 mL, 1.97 mol) was heated at 100° C. overnight and evaporated to remove the volatiles. The residue was triturated with hexanes/ether (1:1) and the solids were collected by filtration and washed with hexanes/ether (1:1) and a minimum amount of EtOAc to give 64.3 g (67%) of 5-(dimethylamino)-2-[(dimethylamino)methylene]-3-oxopent-4-enenitrile as a light yellow solid, which was used for the next step without further purification.

reactant | acetoacetonitrile | 493 mmol, 41 g | C(CC(=O)C)#N | C4H5NO
reactant | t-butoxybis(dimethyl amino)methane | 493 mmol, 86 g | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
reactant | DMF-DMA | 1.97 mol, 263 mL | CN(C)C(OC)OC | C5H13NO2
product | 5-(dimethylamino)-2-[(dimethylamino)methylene]-3-oxopent-4-enenitrile | 64.3 g, 67% | CN(C=CC(C(C#N)=CN(C)C)=O)C | C10H15N3O
